US05691384
Combine 4-hydroxybenzophenone (347 g, 1.75 mol) and methanol (3.5 L). Heat to 50° C. and add a solution of sodium ethanolate in ethanol (718 mL, 21% by weight, 1.92 mol) over 20 minutes. Heat to reflux and add 1-bromo-4-chlorobutane (600 g, 3.5 mol) over 30 minutes. After 18 hours, cool the reaction mixture and evaporate in vacuo to obtain a residue. Add ethyl acetate (5 L) to give a solid. Filter and extract the filtrate with aqueous 10% sodium hydroxide solution and aqueous saturated sodium chloride solution. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give 4-(4-chlorobutoxy)benzophenone.

reactant | 4-hydroxybenzophenone | 1.75 mol, 347 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | sodium ethanolate | C(C)[O-].[Na+]
reactant | ethanol | 1.92 mol, 718 mL | C(C)O | C2H6O
reactant | 1-bromo-4-chlorobutane | 3.5 mol, 600 g | BrCCCCCl | C4H8BrCl
solvent | ethyl acetate | 5 L | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3.5 L | CO | CH4O
product | 4-(4-chlorobutoxy)benzophenone | ClCCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C17H17ClO2
